US07235572B2
b] [rac]-4-(tert-Butyl-dimethyl-silanyloxy)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butan-1-ol
tert-Butyl-dimethylsilyl chloride (115 mg, 0.76 mmol) was added in one portion to a stirred solution of [rac]-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butane-1,4-diol (212 mg, 0.64 mmol) in pyridine (2 ml) at 0° C. The solution was naturally warmed to ambient temperature and stirred for 14 h. Pyridine was removed under reduced pressure and the residue dissolved in ethyl acetate. The solution was washed with 1 M aqueous HCl solution and two times with water and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel, n-heptane/ethyl acetate) to give 120 mg (0.27 mmol, 42%) of the title compound as colorless crystals.

reactant | tert-Butyl-dimethylsilyl chloride | 0.76 mmol, 115 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | [rac]-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butane-1,4-diol | 0.64 mmol, 212 mg | CC=1N=C(SC1C(CCCO)O)C1=CC=C(C=C1)C(F)(F)F | C15H16F3NO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | [rac]-4-(tert-Butyl-dimethyl-silanyloxy)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butan-1-ol | 0.27 mmol, 120 mg, 42% | C(C)(C)(C)[Si](OCCCC(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)(C)C | C21H30F3NO2SSi
